US07807709B2
G. [(3S*,4S*)-1-Benzyl-4-(isopropylamino-methyl)-pyrrolidin-3-ylmethyl]-isopropyl-carbamic acid tert-butyl ester
A solution of ((3S*,4R*)-1-benzyl-4-{[isopropyl-(2-nitro-benzenesulfonyl)-amino]-methyl}-pyrrolidin-3-ylmethyl)-isopropyl-carbamic acid tert-butyl ester (8.9 g, 23.02 mmol), 2-mercaptoethanol (0.81 mL, 11.60 mmol), and DBU (0.79 mL, 5.27 mmol) in CH3CN (10 mL) is stirred for 2 h at room temperature. The mixture is concentrated and then diluted with Et2O and H2O. The organic layer is separated, and the aqueous phase is extracted 3 times with Et2O. The combined organic extracts are dried (MgSO4), and the solvent is concentrated to give the title compound which is used without further purification in the next step. TLC, Rf (AcOEt)=0.61. MS (LC-MS): 404.3 [M+H]+; tR (HPLC, C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/2.5 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.45 min.

reactant | ((3S*,4R*)-1-benzyl-4-{[isopropyl-(2-nitro-benzenesulfonyl)-amino]-methyl}-pyrrolidin-3-ylmethyl)-isopropyl-carbamic acid tert-butyl ester | 23.02 mmol, 8.9 g | C(C)(C)(C)OC(N(C(C)C)C[C@@H]1CN(C[C@@H]1CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(C)C)CC1=CC=CC=C1)=O | C30H44N4O6S
reactant | 2-mercaptoethanol | 11.60 mmol, 0.81 mL | SCCO | C2H6OS
reactant | DBU | 5.27 mmol, 0.79 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | [(3S*,4S*)-1-Benzyl-4-(isopropylamino-methyl)-pyrrolidin-3-ylmethyl]-isopropyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C(C)C)C[C@@H]1CN(C[C@@H]1CNC(C)C)CC1=CC=CC=C1)=O | C24H41N3O2
